US06143311
1 -Cyano-4-[(2-propynyloxy)methoxy]benzene (Intermediate II-i) (9.4 g, 0.05 mol) prepared in the above example 4 and 48% w/v aqueous sodium hydroxide solution (11.3 g) were added to methanol (75 g). Iodine (14.0 g, 0.055 mol) was then added to the solution in several portions while maintaining the inner temperature below 10° C. The reaction mixture was stirred for further 3 hours and the solvent was then evaporated off. The residue was extracted with toluene (10 ml) and the toluene layer was washed with distilled water. Toluene was then evaporated off to obtain a crude reaction product (15.3 g). The crude reaction product (15.3 g) was recrystallized from hexane (50 ml) to obtain the desired 1-cyano-4-[[(3-iodo-2-propynyl)oxy]methoxy]benzene (Derivative III-i)(12.6 g, 94% yield).

reactant | 1 -Cyano-4-[(2-propynyloxy)methoxy]benzene | 0.05 mol, 9.4 g | C(#N)C1=CC=C(C=C1)OCOCC#C | C11H9NO2
reactant | sodium hydroxide | 11.3 g | [OH-].[Na+]
reactant | Iodine | 0.055 mol, 14.0 g | II | I2
solvent | methanol | 75 g | CO | CH4O
product | 1-cyano-4-[[(3-iodo-2-propynyl)oxy]methoxy]benzene | 12.6 g, 94% yield | C(#N)C1=CC=C(C=C1)OCOCC#CI | C11H8INO2
